US06166006
A mixture of sodium methoxide (15.5 g), dimethyl carbonate (91 ml) and 7-(4-fluorophenyl)-1-tetralone (13.8 g) was refluxed for 30 minutes. The reaction mixture was cooled to 0° C., and to the mixture was gradually added 3N hydrochloric acid (200 ml). The mixture was extracted with ethyl acetate. The organic layer was washed with saturated sodium chloride solution, dried with anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was dissolved in THF (90 ml), and to the mixture was added sodium boron hydride (1.36 g) at 0° C. and then was dropwise added methanol (9 ml) for 30 minutes. The reaction mixture was stirred at 0° C. for 4 hours, and to the mixture was added water (500 ml). The mixture was extracted with ethyl acetate. The organic layer was washed with saturated sodium chloride solution, and concentrated under reduced pressure. The residue was dissolved in methanol (80 ml), and to the mixture was added 1N sodium hydroxide (100 ml). The mixture was refluxed for 4 hours and cooled to room temperature. The mixture was acidified with concentrated hydrochloric acid and extracted with ethyl acetate. The organic layer was washed with saturated sodium chloride solution, dried with anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was dissolved in Diglyme (50 ml), and to the mixture was added concentrated hydrochloric acid (10 ml). The mixture was stirred at 100° C. for 2 hours, and to the mixture was added water (500 ml). The mixture was extracted with ethyl acetate. The organic layer was washed with saturated sodium chloride solution, and concentrated under reduced pressure. The residue was dissolved in 0.5N sodium hydroxide (400 ml), and the mixture was washed with diethylether. The aqueous layer was separated, acidified with concentrated hydrochloric acid and extracted with ethyl acetate. The organic layer was washed with saturated sodium chloride solution, dried with anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was recrystallized from ethyl acetate-diisopropylether to give 7-(4-fluorophenyl)-3,4-dihydronaphthalene-2-carboxylic acid (6.0 g) as pale brown crystals.

reactant | sodium methoxide | 15.5 g | C[O-].[Na+]
reactant | dimethyl carbonate | 91 ml | C(OC)(OC)=O | C3H6O3
reactant | 7-(4-fluorophenyl)-1-tetralone | 13.8 g | FC1=CC=C(C=C1)C1=CC=C2CCCC(C2=C1)=O | C16H13FO
solvent | hydrochloric acid | 3N, 200 ml | Cl | ClH
product | 7-(4-fluorophenyl)-3,4-dihydronaphthalene-2-carboxylic acid | 6.0 g | FC1=CC=C(C=C1)C1=CC=C2CCC(=CC2=C1)C(=O)O | C17H13FO2
